US08871756B2
trans-4-Fluoro-1-[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-yl]pyrrolidin-3-amine
The title compound was prepared in analogy to Example 62-1 in Scheme 23 by using 2-chloro-6-methylquinazolin-4(3H)-one, 2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide and trans-4-fluoropyrrolidin-3-amine. MS obsd. (ESI+) [(M+H)+] 426. 1H NMR (400 MHz, CD3OD) 7.82 (s, 1 H), 7.71 (d, J=6.8 Hz, 1 H), 7.42 (m, 4 H), 5.26 (d, J=15.2 Hz, 1 H), 5.07 (d, J=51.2 Hz, 1 H), 4.78 (brs, 1 H), 4.43 (m, 2 H), 4.29 (m, 1 H), 4.06 (t, J=11.2 Hz, 1 H), 3.86 (d, J=12 Hz, 1 H), 3.75 (m, 1 H), 3.40 (m, 2 H), 2.40 (s, 3 H).

reactant | 2-chloro-6-methylquinazolin-4(3H)-one | ClC1=NC2=CC=C(C=C2C(N1)=O)C | C9H7ClN2O
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine 1-oxide | S1(CCNCC2=C1C=CC=C2)=O | C9H11NOS
reactant | trans-4-fluoropyrrolidin-3-amine | F[C@H]1[C@@H](CNC1)N | C4H9FN2
product | trans-4-Fluoro-1-[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-yl]pyrrolidin-3-amine | F[C@H]1[C@@H](CN(C1)C1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)=O)N | C22H24FN5OS
